US07282588B2
Preparation of N-[4-(1-ethyl-4-{2-[4-(4-morpholinylmethyl)phenyl]-1H-pyrrolo[2,3-b]pyridin-4-yl}-1H-pyrazol-3-yl)phenyl]-1-pyrrolidinecarboxamide
A solution of [4-(1-ethyl-4-{2-[4-(4-morpholinylmethyl)phenyl]-1H-pyrrolo[2,3-b]pyridin-4-yl}-1H-pyrazol-3-yl)phenyl]amine (0.204 mmol) in tetrahydrofuran (1 mL) was treated with triethylamine (0.8 mmol) and isopropenyl chloroformate (0.3 mmol). The reaction was stirred for 3 h then pyrolidine (2 mmol) was added and the reaction heated at 50° C. for 18 h. The reaction was concentrated in vacuo and redissolved in methylene chloride (20 mL) and washed with water (2×10 mL). The methylene chloride was evaporated to give the crude produce which was purified using a Gilson reverse phase HPLC to provide the title product (37%). ESMS [M+H]+: 576.2

reactant | [4-(1-ethyl-4-{2-[4-(4-morpholinylmethyl)phenyl]-1H-pyrrolo[2,3-b]pyridin-4-yl}-1H-pyrazol-3-yl)phenyl]amine | 0.204 mmol | C(C)N1N=C(C(=C1)C1=C2C(=NC=C1)NC(=C2)C2=CC=C(C=C2)CN2CCOCC2)C2=CC=C(C=C2)N | C29H30N6O
reactant | triethylamine | 0.8 mmol | C(C)N(CC)CC | C6H15N
reactant | isopropenyl chloroformate | 0.3 mmol | ClC(=O)OC(=C)C | C4H5ClO2
reactant | pyrolidine | 2 mmol | N1CCCC1 | C4H9N
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | N-[4-(1-ethyl-4-{2-[4-(4-morpholinylmethyl)phenyl]-1H-pyrrolo[2,3-b]pyridin-4-yl}-1H-pyrazol-3-yl)phenyl]-1-pyrrolidinecarboxamide | 37% | C(C)N1N=C(C(=C1)C1=C2C(=NC=C1)NC(=C2)C2=CC=C(C=C2)CN2CCOCC2)C2=CC=C(C=C2)NC(=O)N2CCCC2 | C34H37N7O2
